US09062048B2
Step D: methyl 1-(4-oxocyclohexyl)propylcarbamate
A solution of methyl N-(1-1,4-dioxaspiro[4.5]decan-8-ylpropyl)carbamate (as prepared in the previous step, 39 mg, 0.15 mmol, 1.00 equiv) in CH3CN (5 mL) and HCl (2M, 1 mL) was stirred for 2 h at room temperature. The resulting mixture was concentrated under vacuum. The residue was diluted with 10 mL of aq. sodium bicarbonate (1M). The resulting solution was extracted with 2×20 mL of dichloromethane. The organic layers were combined, dried over anhydrous sodium sulfate and concentrated under vacuum to give the title compound as a yellow oil.

reactant | methyl N-(1-1,4-dioxaspiro[4.5]decan-8-ylpropyl)carbamate | O1CCOC12CCC(CC2)C(CC)NC(OC)=O | C13H23NO4
reactant | HCl | 2M, 1 mL | Cl | ClH
solvent | CH3CN | 5 mL | CC#N | C2H3N
product | methyl 1-(4-oxocyclohexyl)propylcarbamate | O=C1CCC(CC1)C(CC)NC(OC)=O | C11H19NO3
